US06514578B1
1-2) 4-(4′-Pentylphenyl)ethynyl phenol
4-Pentylphenylacetylene (10.5 g, 61.4 mmol), 4-acetoxyphenyl iodide (16.1 g, 61.4 mmol), a catalytic amount of Pd(PPh3)2Cl2 and a catalytic amount of copper iodide were stirred in diisopropylamine (100 ml) at 70° C. After 5 minutes, a precipitate was seen and the mixture became unstirrable, toluene (100 ml) was added. The mixture was stirred at room temperature for 24 hours and then evaporated to dryness on a rotary evaporator. The residue was redissolved in aqueous potassium hydroxide ethanolic solution and stirred at 70° C. overnight. The mixture was evaporated to dryness, then partitioned between ethyl acetate and water, the organic phase was removed, dried and evaporated. The residue was purified by flash column chromatography using DCM as eluant. A pink coloured solid was left after evaporation of the appropriate fractions. Yield=10.4 g, 64%. 1H-NMR and IR spectroscopy gave the expected signals.

reactant | 4-Pentylphenylacetylene | 61.4 mmol, 10.5 g | C(CCCC)C1=CC=C(C=C1)C#C | C13H16
reactant | 4-acetoxyphenyl iodide | 61.4 mmol, 16.1 g | C(C)(=O)OC1=CC=C(C=C1)I | C8H7IO2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | diisopropylamine | 100 ml | C(C)(C)NC(C)C | C6H15N
catalyst | Pd(PPh3)2Cl2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | [Cu](I)I
product | 4-(4′-Pentylphenyl)ethynyl phenol | C(CCCC)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)O | C19H20O
